US04478839
1-N-Methylcarbamoyl-5-chloropyrimidin-2-one
Methyl isocyanate (56.5 ml) was added dropwise over 15 minutes, with cooling, to a stirred solution of 5-chloropyrimidin-2-one (25 g) in N,N-dimethylformamide (290 ml) and triethylamine (30.4 ml). The temperature of the reaction mixture was kept at approximately 22° C. The mixture was stirred at room temperature for a further 40 minutes and then cooled in an ice bath. The solid was collected, washed with cold dichloromethane (4×215 ml), briefly air dried and then dried in vacuo at room temperature to give the title compound as white crystals (33.36 g), m.p. 241°-243° C. decomp. U.V. data: λmaxEtOH 230 nm (ε10,370), 322.5 mm (ε1,700).

reactant | Methyl isocyanate | 56.5 ml | CN=C=O | C2H3NO
reactant | 5-chloropyrimidin-2-one | 25 g | ClC=1C=NC(NC1)=O | C4H3ClN2O
solvent | N,N-dimethylformamide | 290 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 30.4 ml | C(C)N(CC)CC | C6H15N
product | 1-N-Methylcarbamoyl-5-chloropyrimidin-2-one | 33.36 g | CNC(=O)N1C(N=CC(=C1)Cl)=O | C6H6ClN3O2
